US04678803
(A) Production of (3R)-3,4-dihydro-8-(N-mesyl-L-phenylalanyloxy)-3-nitroxy-2H-1-benzopyran
31.8 g of 3,4-dihydro-8-hydroxy-3-nitroxy-2H-1-benzopyran was dissolved in 500 ml of methylene chloride, and 36.6 g of N-mesyl-L-phenylalanine and 3.7 g of 4-dimethylaminopyridine were added. With stirring at room temperature, a solution of 40 g of dicyclohexylcarbodiimide in 130 ml of methylene chloride was added, and the mixture was stirred overnight at room temperature. The precipitate was removed from the reaction mixture by filtration. The filtrate was concentrated, and the residue was dissolved in ethyl acetate and washed successively with 5% hydrochloric acid, a 5% aqueous solution of sodium hydroxide and water. The solvent was then evaporated. The residue was dissolved in tetrahydrofuran. The insoluble materials were removed by filtration. Hexane was added, and the solution was left to stand. The precipitated crystals were collected by filtration, and recrystallized from acetone to give 12.8 g (yield 19.4%) of the desired product as colorless prisms having a melting point of 191° to 195° C. (decomp.).

reactant | 3,4-dihydro-8-hydroxy-3-nitroxy-2H-1-benzopyran | 31.8 g | OC1=CC=CC=2CC(COC21)O[N+](=O)[O-] | C9H9NO5
reactant | N-mesyl-L-phenylalanine | 36.6 g | S(=O)(=O)(C)N[C@@H](CC1=CC=CC=C1)C(=O)O | C10H13NO4S
reactant | dicyclohexylcarbodiimide | 40 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | methylene chloride | 500 ml | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 3.7 g | CN(C1=CC=NC=C1)C | C7H10N2
solvent | methylene chloride | 130 ml | C(Cl)Cl | CH2Cl2
product | (3R)-3,4-dihydro-8-(N-mesyl-L-phenylalanyloxy)-3-nitroxy-2H-1-benzopyran | 12.8 g, yield 19.4% | S(=O)(=O)(C)N[C@@H](CC1=CC=CC=C1)C(=O)OC1=CC=CC=2C[C@H](COC21)O[N+](=O)[O-] | C19H20N2O8S
